US05214206
Synthesis of [[(diphenylmethyl)amino]carbonyl]sulfamoyl chloride
A solution of benzhydrylamine (4.0 g, 21.8 mmoles) in 50 mL Et2O was added dropwise to a solution of N-chlorosulfonyl isocyanate (1.90 mL, 21.8 mmoles) in 100 mL Et2O at 15° C. under an atmosphere of N2. Upon addition, the mixture turned cloudy but cleared up after one-half hour of stirring. The reaction mixture was concentrated in vacuo to give a pale yellow solid. Trituration with hexanes gave 6.64 g (94%) of the title compound, mp 80°-88° C.

reactant | benzhydrylamine | 21.8 mmoles, 4.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | N-chlorosulfonyl isocyanate | 21.8 mmoles, 1.90 mL | C(=NS(=O)(=O)Cl)=O | CClNO3S
solvent | Et2O | 50 mL | CCOCC | C4H10O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | [[(diphenylmethyl)amino]carbonyl]sulfamoyl chloride | 6.64 g, 94% | C1(=CC=CC=C1)C(C1=CC=CC=C1)NC(=O)NS(=O)(=O)Cl | C14H13ClN2O3S
